US09238640B2
To a solution of N-(4-formyl-phenyl)-acetamide (1.25 g, 7.67 mmol) in trifluoroacetic acid (70 mL) was slowly added thallium(III)trifluoroacetate (5.00 g, 9.20 mmol). The reaction mixture was stirred at room temperature for 30 minutes. Then, a solution of sodium iodide (1.19 g, 7.95 mmol) in water (10 mL) was added slowly. The color changed to dark purple and a lot of solid was formed. Stirring continued at room temperature for 16 hours. Solvent was evaporated to half of the volume, and water (50 mL) was added. The pH was adjusted to approximately 13 with 4 N NaOH solution. The mixture was extracted with ethyl acetate (2×100 mL). The organic phase was dried over anhydrous Na2SO4 and concentrated on a rotary evaporator. The solid obtained was washed with ethyl acetate (2×5 mL), ether (2×10 mL), and dried under vacuum to give N-(4-formyl-2-iodo-phenyl)-acetamide as an off-white solid. Yield: 0.760 g (34%).

reactant | N-(4-formyl-phenyl)-acetamide | 7.67 mmol, 1.25 g | C(=O)C1=CC=C(C=C1)NC(C)=O | C9H9NO2
reactant | thallium(III)trifluoroacetate | 9.20 mmol, 5.00 g | FC(C(=O)[O-])(F)F.[Tl+3].FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F
reactant | sodium iodide | 7.95 mmol, 1.19 g | [I-].[Na+]
solvent | trifluoroacetic acid | 70 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 10 mL | O | H2O
product | N-(4-formyl-2-iodo-phenyl)-acetamide | C(=O)C1=CC(=C(C=C1)NC(C)=O)I | C9H8INO2
